US04371736
5-Chloro-2-[2-(5-nitropyridin-2-ylthio)phenoxy]-pyrimidine
At 0°, 4.0 grams (0.025 moles) of 2-chloro-5-nitropyridine is added to a mixture of 3.0 grams (0.0023 mole) 2-mercaptophenol and 7.0 grams of potassium carbonate stirring in 50 ml of dimethylformamide. After stirring overnight at room temperature, 4.0 grams of 2,5-dichloropyrimidine is added and the mixture is heated at 80° for 5 hours. The mixture is then poured into excess H2O and the aqueous mixture is extracted with ethyl ether (200 ml), washed with saturated sodium bicarbonate, brine, dried (MgSO4), and the solvent is evaporated to yield the crude product.

reactant | 2-chloro-5-nitropyridine | 0.025 moles, 4.0 grams | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-mercaptophenol | 0.0023 mole, 3.0 grams | SC1=C(C=CC=C1)O | C6H6OS
reactant | potassium carbonate | 7.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dichloropyrimidine | 4.0 grams | ClC1=NC=C(C=N1)Cl | C4H2Cl2N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | 5-Chloro-2-[2-(5-nitropyridin-2-ylthio)phenoxy]-pyrimidine | ClC=1C=NC(=NC1)OC1=C(C=CC=C1)SC1=NC=C(C=C1)[N+](=O)[O-] | C15H9ClN4O3S
